* OVP-01 trip-point transient: OVPComparator (elec/src/modules.ato), TLV3201
* comparator model.
*
* CALIBRATED: false. No bench measurement exists for this circuit. Every
* component value below is copied read-only from the committed atopile
* source (elec/src/modules.ato: OVPComparator). Nothing here was invented
* to make the answer come out a particular way.
*
* Sourced values (read-only, elec/src/modules.ato: OVPComparator):
*   - power_3v3 rail (comp.VCC):         3.3 V
*   - r_div_top1/top2/top3:              430 kohm each, in series
*   - r_div_bot:                         10000 ohm
*       -> V(comp.INP) = V_bus * 10000 / (3*430000 + 10000) = V_bus / 130
*   - r_ref_top:                           732 ohm
*   - r_ref_bot:                         10000 ohm
*       -> V(comp.INN) = 3.3 * 10000 / (732 + 10000) = 3.0749 V
*   - Hand-derived trip (no hysteresis on this comparator -- unlike
*     ThermalComparator, OVPComparator has no feedback resistor):
*       V_bus / 130 = 1.5  =>  V_bus = 195 V, measured AT THE v_bus.line NODE.
*
* What "V_bus" physically is (read-only, elec/src/main.ato):
*   main.ato wires `safety.dc_bus.line ~ dc_bus_plus` and
*   `safety.dc_bus.reference ~ gnd`. `dc_bus_plus` is the HALF bus of the
*   split-rail voltage-doubler topology (elec/src/modules.ato PowerInput:
*   c_bus1 charges dc_bus.hv_plus to dc_bus.gnd_ref, nominal 170V -- see
*   `v_bus_half: voltage = 170V` in PowerInput, and main.ato's own comment
*   `aux_supply.power_in.vcc ~ dc_bus_plus  # Half-bus input (~170VDC)`).
*   This CONTRADICTS main.ato's top-level signal comment,
*   `signal dc_bus_plus  # +340V` -- dc_bus_plus is not 340V anywhere it is
*   actually used; it is the ~170V half-bus rail. This is a source
*   self-contradiction, structurally identical to the OCP-01
*   docstring-vs-comment mismatch, and is reported as a finding, not fixed.
*
*   OVPComparator's own inline comment is internally consistent with the
*   half-bus reading: it computes the same 195V half-bus trip point derived
*   above, then DOUBLES it to declare a "full bus" trip of 390V. That
*   doubling assumes dc_bus_minus swings symmetrically negative to
*   dc_bus_plus's positive excursion -- an assumption this single-ended
*   divider does not itself measure (only dc_bus_plus is sensed;
*   dc_bus_minus is not wired to this comparator at all).
*
* This deck measures the divider+comparator circuit AS WIRED: the trip
* voltage at the v_bus.line node (i.e. at dc_bus_plus). It does not
* simulate the doubler/rectifier or dc_bus_minus, and does not assert
* whether the x2 symmetry assumption holds -- that is a separate,
* un-simulated claim about upstream circuit behavior.
*
* Known model-fidelity limit (simulation/models/TLV3201_ngspice.lib header):
* "It intentionally does not claim a timing, noise, or temperature model."
* This deck therefore measures only the DC/quasi-static trip THRESHOLD.
* OVPComparator has no hysteresis network (unlike ThermalComparator), so
* there is no hysteresis band to measure either.

.include ../../models/TLV3201_ngspice.lib

.param RAMP_MAX_V=500
.param RAMP_TIME=500u

V_VCC VCC_3V3 0 DC 3.3
V_BUS v_bus 0 PWL(0 0 {RAMP_TIME} {RAMP_MAX_V})

R_DIV_TOP1 v_bus n1 430000
R_DIV_TOP2 n1 n2 430000
R_DIV_TOP3 n2 vinp 430000
R_DIV_BOT vinp 0 10000

R_REF_TOP VCC_3V3 vinn 732
R_REF_BOT vinn 0 10000

X_COMP vinp vinn VCC_3V3 0 comp_out TLV3201_NGSPICE

.control
set noaskquit
tran 100n 500u
meas tran t_trip WHEN v(comp_out)=1.65 RISE=1
meas tran v_bus_at_trip FIND v(v_bus) AT={t_trip}
print t_trip
print v_bus_at_trip
quit
.endc

.end
